US05409943
N-(3-(2,6-Difluorobenzyloxy)pyrid-2-yl-N'-(prop-1-yl)-N"-(4-chlorophenyl)guanidine
A mixture of N-[3-(2,6-difluorobenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)thiourea (1.0 g, 0.0025 mol), yellow mercuric oxide (0.64 g, 0.003 mol) and n-propylamine (20 ml) was stirred at room temperature for 48 hours. The solvent was removed in vacuo and the black residue was boiled with chloroform and filtered hot. Evaporation of the solvent and recrystallisation from acetonitrile gave the desired product. Yield 0.60 g (48%), m.p. 99°-100 ° C.

reactant | N-[3-(2,6-difluorobenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)thiourea | 0.0025 mol, 1.0 g | FC1=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=C(C=C2)Cl)C(=CC=C1)F | C19H14ClF2N3OS
solvent | n-propylamine | 20 ml | C(CC)N | C3H9N
product | 3-(2,6-Difluorobenzyloxy)pyrid-2-yl-N'-(prop-1-yl)-N"-(4-chlorophenyl)guanidine | FC1=C(COC=2C(=NC=CC2)NC(=NC2=CC=C(C=C2)Cl)NCCC)C(=CC=C1)F | C22H21ClF2N4O
